US04127646
A mixture of 2.5 g. (0.015 mol) of 3,5-diaminonitrobenzene, 100 ml. of toluene, 15 ml. of acetic acid and 3 ml. (3.24 g., 0.32 mol) of acetic anhydride was refluxed for five hours. The reaction mixture was cooled, filtered and the solid washed well with toluene, then boiled in 150 ml. of ethanol for 20 minutes to give 3,5-bis-acetamidonitrobenzene, m.p.>290° C.

reactant | 3,5-diaminonitrobenzene | 0.015 mol | NC=1C=C(C=C(C1)N)[N+](=O)[O-] | C6H7N3O2
reactant | toluene | C1(=CC=CC=C1)C | C7H8
reactant | acetic anhydride | 0.32 mol, 3.24 g | C(C)(=O)OC(C)=O | C4H6O3
reactant | acetic acid | C(C)(=O)O | C2H4O2
product | 3,5-bis-acetamidonitrobenzene | C(C)(=O)NC=1C=C(C=C(C1)NC(C)=O)[N+](=O)[O-] | C10H11N3O4
